### PR TITLE
feat(Topology/Algebra/ConstMulAction): properties of continuous actions in Hausdorff spaces

### PR DESCRIPTION
**Pull request by adri326**
Defines some useful properties of `ContinuousConstSMul` group actions on Hausdorff spaces:
- `MulAction.isClosed_fixedBy`, which proves that the `fixedBy α m` set is closed
- `t2_separation_smul`, which constructs an open set `s` such that `s` and `g • s` are disjoint
- `Set.InjOn.t2_separation_smul`, the extension of `t2_separation_smul` to a set of group elements whose action is injective

---

This PR belongs my series of PR around the formalization of Rubin's theorem. `MulAction.isClosed_fixedBy` is used in several places along the proof, and the separation lemmas are primarily used in showing that `(fixedBy α g)ᶜ` and `(fixedBy α h)ᶜ` are disjoint under some intricate but fully group-theoretic condition.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/ConstMulAction.lean [hunk 1]
```diff
@@ -286,6 +297,46 @@ theorem interior_smul (c : G) (s : Set α) : interior (c • s) = c • interior
...
+by `g : G`, there exists an open set `s` such that `x ∈ s` and `g +ᵥ s` is disjoint from `s`."]
+theorem t2_separation_smul {x : α} {g : G} (gx_ne : g • x ≠ x) :
+    ∃ s : Set α, IsOpen s ∧ x ∈ s ∧ Disjoint s (g • s) :=
+  let ⟨s, t, s_open, t_open, gx_in_s, x_in_t, disj_st⟩ := t2_separation gx_ne
+  ⟨g⁻¹ • s ∩ t,
+    (s_open.smul g⁻¹).inter t_open,
+    ⟨Set.mem_inv_smul_set_iff.mpr gx_in_s, x_in_t⟩,
+    by
+      rw [Set.smul_set_inter, smul_inv_smul]
+      exact (disj_st.symm.inter_left' _).inter_right _⟩
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/ConstMulAction.lean:318]: Can you make this proof shorter by proving it after the result below?

Comment (adri326) [reply Mathlib/Topology/Algebra/ConstMulAction.lean:318]: Definitely, yes. Originally I had a very complex proof that proved the `Set.Finite` version using `t2_separation_smul`

Comment (adri326) [reply Mathlib/Topology/Algebra/ConstMulAction.lean]: It unfortunately makes the proof longer, because `PairwiseDisjoint` and `InjOn` require me to jump through more hoops.

**Comment by j-loreaux** [comment]
@ADedecker is the `separation_mul` stuff subsumed by any of the work from LftCM? If not, this LGTM.

File: Mathlib/Topology/Algebra/ConstMulAction.lean [hunk 2]
```diff
@@ -286,6 +297,52 @@ theorem interior_smul (c : G) (s : Set α) : interior (c • s) = c • interior
...
+`g • t` is disjoint from `h • t`.
+-/
+@[to_additive "If the set of group elements `s` is finite and its action on the point `x` is
+injective, then one can construct an open set `t` such that for every pair `g ≠ h` of `s`,
+`g +ᵥ t` is disjoint from `h +ᵥ t`."]
+theorem Set.InjOn.t2_separation_smul {s : Set G} {x : α} (inj_on : s.InjOn (· • x))
+    (s_finite : s.Finite) : ∃ t : Set α, IsOpen t ∧ x ∈ t ∧
+      s.PairwiseDisjoint (fun g => g • t) := by
+  let ⟨t, ht, disj⟩ := Set.Finite.t2_separation <| Set.Finite.image (· • x) s_finite
+
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/ConstMulAction.lean:316]: style:
```suggestion
```

**Comment by ADedecker** [comment]
I'll have a look very soon, thanks for pinging me.

**Comment by ADedecker** [comment]
Sorry for the delay. I think there is no overlap with the theory of proper actions nor any of the work done at LftCM here. 

I think one thing that would be nice is to establish all of these properties for finite sets of homeomorphisms instead of requiring that they come from group actions (and then of course specialize it to the current statement). One could argue that we should just see `Homeomorph X` as a group acting on `X`, but I don't think we have this as an instance in Mathlib (?) so it's best to do things the other way around.

**Comment by adri326** [comment]
I wouldn't mind seeing the `MulAction (Homeomorph X) X` instance being introduced, as the article I'm following mentions this action as the trivial example for a Rubin action (although it's not needed for the proof itself). It's been a couple of weeks since I've touched Mathlib, but I'll see how I can generalize these results
